US08383633B2
N-(4-(4-(1,2,4-thiadiazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)-3,3,3-trifluoropropanamide
To a round bottom flask was added N-(4-(4,6-dichloropyrimidin-2-ylthio)phenyl)-3,3,3-trifluoropropanamide (350 mg, 0.9 mmol), 1,2,4-thiadiazole-5-amine (100 mg, 0.9 mmol), xanthphos (50 mg, 0.1 mmol), Pd2 dba3 (50 mg, 0.05 mmol), NaCO3 (150 mg, 1.5 mmol) and dioxane(10 cm). The mixture was flushed with nitrogen and then brought to reflux for 2 hours. The mixture was filtered, partitioned between ethylacetate and bicarbonate. The organic layer was dried with magnesium sulfate, and concentrated to an oil, which was purified by column chromatography to yield the product as a yellow solid (127 mg, 34%)

reactant | N-(4-(4,6-dichloropyrimidin-2-ylthio)phenyl)-3,3,3-trifluoropropanamide | 0.9 mmol, 350 mg | ClC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(CC(F)(F)F)=O | C13H8Cl2F3N3OS
reactant | 1,2,4-thiadiazole-5-amine | 0.9 mmol, 100 mg | S1N=CN=C1N | C2H3N3S
reactant | xanthphos | 0.1 mmol, 50 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2 dba3 | 0.05 mmol, 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-(4-(1,2,4-thiadiazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)-3,3,3-trifluoropropanamide | 127 mg, 34% | S1N=CN=C1NC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(CC(F)(F)F)=O | C15H10ClF3N6OS2
